US05280025
(4) Synthesis of 5-chloro-6-(1-fluoroethyl)-4-[1-(4-difluoromethoxyphenyl)ethylamino]pyrimidine (Compound 4)
In 30 ml of dichloromethane was dissolved 1.0 g of 5-chloro-6-(1-hydroxyethyl)-4-[1-(4-difluoromethoxyphenyl)-ethylamino]pyrimidine, and to the mixture was added dropwise 0.4 g of diethylaminosulfur trifluoride under ice cooling. The mixture was stirred at room temperature for 1 hour.

reactant | 5-chloro-6-(1-hydroxyethyl)-4-[1-(4-difluoromethoxyphenyl)-ethylamino]pyrimidine | 1.0 g | ClC=1C(=NC=NC1C(C)O)NC(C)C1=CC=C(C=C1)OC(F)F | C15H16ClF2N3O2
reactant | diethylaminosulfur trifluoride | 0.4 g | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 5-chloro-6-(1-fluoroethyl)-4-[1-(4-difluoromethoxyphenyl)ethylamino]pyrimidine | ClC=1C(=NC=NC1C(C)F)NC(C)C1=CC=C(C=C1)OC(F)F | C15H15ClF3N3O
